US06245804B1
10 g of 1-phenyl-cyclobutanecarbonitrile, dissolved in 70 ml of toluene, is mixed with 56 ml of diisobutylaluminum hydride in toluene (1.2 molar) at −72 to −69° C. After 4 hours at −75° C., 30 ml of ethyl acetate is added in drops. After heating to room temperature, additional ethyl acetate and water are added. It is filtered on diatomaceous earth, the organic phase is separated, dried (Na2SO4) and concentrated by evaporation. After chromatography on silica gel (hexane with 0-10% ethyl acetate), 7.6 g of 1-phenyl-cyclobutanecarbaldehyde is obtained. 3 g of it is dissolved in 10 ml of tetrahydrofuran and added in drops at 0° C. to a solution, in which previously 5 g of triethyl-2-ethoxyphosphonoacetate in 70 ml of tetrahydrofuran was mixed at 0° C. with 10.3 ml of a 2 molar solution of lithium diisopropylamide in tetrahydrofuran/heptane/ethylbenzene. After 20 hours at room temperature, water is added, it is extracted with ethyl acetate, dried (Na2SO4) and concentrated by evaporation. 2 g of this crude product is saponified with 28 ml of 1N sodium hydroxide solution. 1.32 g of the acid, which is heated for 20 hours to 90° C. with 25 ml of 1 molar sulfuric acid while being stirred vigorously, is obtained. After extraction with ether, drying (Na2SO4) and concentration by evaporation, 0.89 g of 3-(1-phenyl-cyclobutyl)-2-oxopropionic acid is obtained as a yellowish oil.

reactant | 1-phenyl-cyclobutanecarbonitrile | 10 g | C1(=CC=CC=C1)C1(CCC1)C#N | C11H11N
reactant | diisobutylaluminum hydride | 56 ml | [H-].C(C(C)C)[Al+]CC(C)C
reactant | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
reactant | water | O | H2O
solvent | toluene | 70 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 1.2 molar | C1(=CC=CC=C1)C | C7H8
product | 1-phenyl-cyclobutanecarbaldehyde | 7.6 g | C1(=CC=CC=C1)C1(CCC1)C=O | C11H12O
